US08227601B2
4-(4-(mesitylthio)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile
To a suspension of 4-(5-benzyl-4-(mesitylthio)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile (9.2 mg, 0.03 mmol) in 1,2-dichlorobenzene (1 mL) was added AlCl3 (26 mg, 0.3 mmol). The reaction mixture was heated at 160° C. for 1.5 h, which the reaction mixture became dark and homogeneous. Upon completion of the reaction, the reaction mixture was cooled and washed with NH4Cl. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by preparative TLC, eluting with Hexanes:Ethyl acetate (2.5:1) produced the product as a pink solid (7.7 mg, 20%).

reactant | 4-(5-benzyl-4-(mesitylthio)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | 0.03 mmol, 9.2 mg | C(C1=CC=CC=C1)N1C=CC=2N=C(N=C(C21)SC2=C(C=C(C=C2C)C)C)NC2=CC=C(C#N)C=C2 | C29H25N5S
reactant | AlCl3 | 0.3 mmol, 26 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | 1,2-dichlorobenzene | 1 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-(4-(mesitylthio)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | 7.7 mg, 20% | C1(=C(C(=CC(=C1)C)C)SC=1C2=C(N=C(N1)NC1=CC=C(C#N)C=C1)C=CN2)C | C22H19N5S
